US07375118B2
2-(4-Amino-phenyl)-1H-indole-5-carboxylic acid methyl ester
An oven dried 2L round bottom flask with magnetic stirbar under argon was charged with 2-(4-Nitro-phenyl)-1H-indole-5-carboxylic acid methyl ester (9.33 g, 31.52 mmol), methanol (600 mL), and THF (300 mL). The palladium catalyst (3.358, 10% wt, 3.152 mmol) was carefully added in portions then acetic acid (2 ml) was added. The mixture was evacuated then a balloon filled with H2 (g) was placed over the mixture. The reaction mixture was stirred at room temperature overnight. The mixture was filtered through a pad of celite. The celite pad was washed with ethyl acetate. The filtrate was concentrated to about 250 ml then filtered through a plug of silica gel and eluted with 70% Ethyl acetate:30% Hexanes then with ethyl acetate. The filtrate was concentrated and slurried in about 70 ml boiling methanol. The crude product was then purified on silica gel using 7:3 ethylacetate:hexanes as eluant to give 4.5 g of the pure product. Yield (4.5 g, 53.7%)

reactant | 2-(4-Nitro-phenyl)-1H-indole-5-carboxylic acid methyl ester | 31.52 mmol, 9.33 g | COC(=O)C=1C=C2C=C(NC2=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H12N2O4
reactant | methanol | 600 mL | CO | CH4O
reactant | THF | 300 mL | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-(4-Amino-phenyl)-1H-indole-5-carboxylic acid methyl ester | 4.5 g | COC(=O)C=1C=C2C=C(NC2=CC1)C1=CC=C(C=C1)N | C16H14N2O2
